US08623893B2
1.6/2-(6-Chloro-pyridin-3-yl)-N-pyridin-2-yl-acetamide
Under inert atmosphere, 6.2 g (38.5 mmol) of N,N-carbodiimidazole is added to a suspension of 6 g (35 mmol) of 2-chloropyridylacetic acid in anhydrous THF (90 ml) at room temperature. The reaction mixture is stirred at this temperature for 2 hours, then 5.4 g (57.7 mmol) of 2-aminopyridine is added and the mixture is heated for 2 hours under reflux. 200 ml of dichloromethane is added to the reaction mixture, cooled beforehand to room temperature, the organic phase thus obtained is washed with a saturated solution of ammonium chloride, then with an aqueous solution of soda (1N), dried over Na2SO4, filtered and concentrated under reduced pressure. The residue is purified by silica gel flash chromatography (eluent: A/B=dichloromethane/ethyl acetate 0% to 70% of B). 5.6 g of compound is obtained in the form of a white powder. Yield 65%. Melting point: 130° C. MH+: 248 (Tr: 5.6 min, condition 1).

reactant | 2-chloropyridylacetic acid | 35 mmol, 6 g | ClC1=NC=CC=C1CC(=O)O | C7H6ClNO2
reactant | 2-aminopyridine | 57.7 mmol, 5.4 g | NC1=NC=CC=C1 | C5H6N2
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | THF | 90 ml | C1CCOC1 | C4H8O
product | 2-(6-Chloro-pyridin-3-yl)-N-pyridin-2-yl-acetamide | 5.6 g, Yield 65% | ClC1=CC=C(C=N1)CC(=O)NC1=NC=CC=C1 | C12H10ClN3O
